### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Integral/Lebesgue): add `set_lintegral_subtype`

### PR DESCRIPTION
**Pull request by urkud**
* Add `MeasureTheory.set_lintegral_eq_subtype` and
  `MeasureTheory.set_lintegral_subtype`.
* Add `MeasurableEmbedding.comap_map`,
  `MeasurableEmbedding.comap_restrict`, and
  `MeasurableEmbedding.restrict_comap`.
* Drop measurability assumption in `MeasurableEmbedding.comap_preimage`.
* Remove some empty lines.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/Lebesgue.lean [hunk 1]
```diff
@@ -1356,6 +1356,15 @@ theorem MeasurePreserving.set_lintegral_comp_emb {mb : MeasurableSpace β} {ν :
   rw [← hg.set_lintegral_comp_preimage_emb hge, preimage_image_eq _ hge.injective]
 #align measure_theory.measure_preserving.set_lintegral_comp_emb MeasureTheory.MeasurePreserving.set_lintegral_comp_emb
 
+theorem set_lintegral_eq_subtype {s : Set α} (hs : MeasurableSet s) (f : α → ℝ≥0∞) :
+    ∫⁻ x in s, f x ∂μ = ∫⁻ x : s, f x ∂(μ.comap (↑)) := by
+  rw [← (MeasurableEmbedding.subtype_coe hs).lintegral_map, map_comap_subtype_coe hs]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Integral/Lebesgue.lean:1361]: Should this equality be reversed? The right hand side looks more complicated. I would even be tempted to add a @[simp] attribute to have it simplify to the left hand side (and add simp to the next lemma as well). What do you think?

Comment (urkud) [reply Mathlib/MeasureTheory/Integral/Lebesgue.lean:1361]: It matches pre-existing `set_integral_eq_subtype`. I'll see where the latter is used and swap sides there too.

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
